US06251925B1
3′-Nitro-[1,1′-biphenyl]-4-carboxylic acid methyl ester
To a stirred mixture of methyl 4-bromobenzoate (1.00 g) and 3-nitrophenylboronic acid (800 mg) in dioxane (20 mL) was added tetrakis(triphenylphosphine)palladium(0) (165 mg) and solid sodium carbonate (710 mg). The mixture was heated at 85° C. overnight, cooled to room temperature and partitioned between dichloromethane (100 mL) and 2 M aqueous sodium carbonate (50 mL) containing concentrated ammonium hydroxide (5 mL). The aqueous layer was further extracted twice with dichioromethane. The combined organic layers were washed with brine, dried over magnesium sulfate and concentrated under reduced pressure. The residue was absorbed onto silica and chromatographed on silica gel eluting with 6:94 ethyl acetate in hexane to provide the title compound (198 mg) as a white solid

reactant | methyl 4-bromobenzoate | 1.00 g | BrC1=CC=C(C(=O)OC)C=C1 | C8H7BrO2
reactant | 3-nitrophenylboronic acid | 800 mg | [N+](=O)([O-])C=1C=C(C=CC1)B(O)O | C6H6BNO4
reactant | sodium carbonate | 710 mg | C([O-])([O-])=O.[Na+].[Na+]
solvent | dioxane | 20 mL | O1CCOCC1 | C4H8O2
catalyst | tetrakis(triphenylphosphine)palladium(0) | 165 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 3′-Nitro-[1,1′-biphenyl]-4-carboxylic acid methyl ester | 198 mg | COC(=O)C1=CC=C(C=C1)C1=CC(=CC=C1)[N+](=O)[O-] | C14H11NO4
